US06677335B1
1-{6-ethoxy-5-[3-ethyl-6,7-dihydro-2-(2-methoxyethyl)-7-oxo-2H-pyrazolo[4,3-d]pyrimidin-5-yl]-3-pyridylsulfonyl}-4-ethylpiperazine
10 g (0.019 mol) of the compound of Example 8 and Example 102, 1-{6-ethoxy-5-[3-ethyl-6,7-dihydro-2-(2-methoxyethyl)-7-oxo-2H-pyrazolo[4,3-d]pyrimidin-5-yl]-3-pyridylsulfonyl}-4-ethylpiperazine ethyl acetate solvate, was charged followed by 12 ml/g (120 mls) of 16% water in ethyl alcohol. The slurry was heated to reflux to yield a solution and 6 ml/g (60 mls) distilled off at atmospheric pressure. The solution was then cooled to room temperature with crystallisation occurring at 40° C. The slurry was then cooled to 5-10° C. and granulated for 30 minutes following which it was filtered and washed with 2 ml/g ethyl alcohol (20 mls). The damp solid was dried in vacuo overnight at 55-60° C. to yield a white crystalline solid. (Yield 7.6 g, 76%).Melting Point 162-165° C.

reactant | 1-{6-ethoxy-5-[3-ethyl-6,7-dihydro-2-(2-methoxyethyl)-7-oxo-2H-pyrazolo[4,3-d]pyrimidin-5-yl]-3-pyridylsulfonyl}-4-ethylpiperazine ethyl acetate | C(C)OC(C)=O.C(C)OC1=C(C=C(C=N1)S(=O)(=O)N1CCN(CC1)CC)C=1NC(C=2C(N1)=C(N(N2)CCOC)CC)=O
reactant | water | 120 mls | O | H2O
solvent | ethyl alcohol | C(C)O | C2H6O
product | 1-{6-ethoxy-5-[3-ethyl-6,7-dihydro-2-(2-methoxyethyl)-7-oxo-2H-pyrazolo[4,3-d]pyrimidin-5-yl]-3-pyridylsulfonyl}-4-ethylpiperazine | C(C)OC1=C(C=C(C=N1)S(=O)(=O)N1CCN(CC1)CC)C=1NC(C=2C(N1)=C(N(N2)CCOC)CC)=O | C23H33N7O5S
